US03994936
vanadium oxytrichloride is reacted with tri-(p-chlorophenyl)-silanol [m.p.: 127°-128° C.] to produce tris-[tri-(p-chlorophenyl)-siloxy]-vanadium oxide [m.p.: 181° C.];

reactant | vanadium oxytrichloride | O=[V].Cl.Cl.Cl
reactant | tri-(p-chlorophenyl)-silanol | ClC1=CC=C(C=C1)[Si](O)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C18H13Cl3OSi
product | tris-[tri-(p-chlorophenyl)-siloxy]-vanadium oxide | [O-2].ClC1=CC=C(C=C1)[Si](O[V+2](O[Si](C1=CC=C(C=C1)Cl)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)O[Si](C1=CC=C(C=C1)Cl)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | InChI=1S/3C18H12Cl3OSi.O.V/c3*19-13-1-7-16(8-2-13)23(22,17-9-3-14(20)4-10-17)18-11-5-15(21)6-12-18;;/h3*1-12H;;/q3*-1;-2;+5
